US04493884
71.5 g of vinylbenzyl chloride and 75.0 g of sodium p-hydroxybenzoate were added to 250 ml of dimethylsulfoxide and stirred and reacted at 40° C. for 4 days. Then 1,000 ml of water was added thereto, and the resulting mixture was extracted with 200 ml of ethyl acetate. After distilling off ethyl acetate, recrystallization of the residue from benzene-hexane mixture solvent yielded 110 g of vinylbenzyl p-hydroxybenzoate (m.p. 83°-85° C.).

reactant | vinylbenzyl chloride | 71.5 g | C(=C)C(C1=CC=CC=C1)Cl | C9H9Cl
reactant | sodium p-hydroxybenzoate | 75.0 g | OC1=CC=C(C(=O)[O-])C=C1.[Na+]
reactant | dimethylsulfoxide | 250 ml | CS(=O)C | C2H6OS
solvent | water | 1,000 ml | O | H2O
product | vinylbenzyl p-hydroxybenzoate | 110 g | OC1=CC=C(C(=O)OC(C2=CC=CC=C2)C=C)C=C1 | C16H14O3
